US07781478B2
To a solution of 2-(4-aminophenyl)-1-ethyl-6-methoxy-1H-indole-3-carbonitrile (50 mg, 0.172 mmol) in THF (2 mL) is added 2-chloroethyl isocyanate (22 uL, 0.258 mmol) at room temperature. After stirring overnight at reflux, the reaction mixture is concentrated in vacuo and the residue is diluted with ethyl acetate. The resulting semi-solid is triturated with hexane and the precipitate collected is collected by filtration and washed well with 50% ethyl acetate in hexane and dried in vacuo to afford (62 mg, 91%) of 1-(2-chloroethyl)-3-[4-(3-cyano-1-ethyl-6-methoxy-1H-indol-2-yl)-phenyl]-urea.

reactant | 2-(4-aminophenyl)-1-ethyl-6-methoxy-1H-indole-3-carbonitrile | 0.172 mmol, 50 mg | NC1=CC=C(C=C1)C=1N(C2=CC(=CC=C2C1C#N)OC)CC | C18H17N3O
reactant | 2-chloroethyl isocyanate | 0.258 mmol, 22 uL | ClCCN=C=O | C3H4ClNO
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 1-(2-chloroethyl)-3-[4-(3-cyano-1-ethyl-6-methoxy-1H-indol-2-yl)-phenyl]-urea | 62 mg, 91% | ClCCNC(=O)NC1=CC=C(C=C1)C=1N(C2=CC(=CC=C2C1C#N)OC)CC | C21H21ClN4O2
